US08420632B2
14.3 ml (185 mmol) of methanesulfonyl chloride are added slowly to a solution of 15 g (84 mmol) of commercial bis(2-chloroethylamine) hydrochloride and 26 ml (185 mmol) of triethylamine in 200 ml of dichloromethane and 70 ml of tetrahydrofuran previously stirred for 15 min and then filtered in order to remove the triethylammonium chloride. The reaction medium is then stirred at ambient temperature for 18 h, extracted with dichloromethane, and washed with water. The organic phase is dried over magnesium sulfate, filtered and evaporated. The residue obtained is washed with diisopropyl ether, filtered and then dried under vacuum. 15.3 g (82%) of N,N-bis-(2-chloroethyl)methanesulfonamide are obtained in the form of a solid.

reactant | methanesulfonyl chloride | 185 mmol, 14.3 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | bis(2-chloroethylamine) hydrochloride | 84 mmol, 15 g | Cl.ClCCN.ClCCN
reactant | triethylamine | 185 mmol, 26 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | N,N-bis-(2-chloroethyl)methanesulfonamide | 15.3 g, 82% | ClCCN(S(=O)(=O)C)CCCl | C5H11Cl2NO2S
